US20010008893A1
4-Benzyloxy-3-methylnaphthol
11.9 g (0.032 mol) of 1-benzyloxy-2-methyl-4-benzoyloxynaphthalene was suspended in 120 ml of methanol, and to this was added 20 ml of 2N NaOH, followed by stirring for 2 hours at room temperature. After evaporation of methanol from the reaction mixture under reduced pressure, the residue was acidified with hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with a sodium hydrogen carbonate aqueous solution and then with water, and ethyl acetate evaporated under reduced pressure. The residue was dissolved in methanol, decolorized with activated carbon, and following filtering out of the activated carbon, water was added to the filtrate, and precipitated crystals were collected, recrystallized from methanol-water to give 5.2 g of white plates, m.p. 159-161°C.

reactant | 1-benzyloxy-2-methyl-4-benzoyloxynaphthalene | 0.032 mol, 11.9 g | C(C1=CC=CC=C1)OC1=C(C=C(C2=CC=CC=C12)OC(C1=CC=CC=C1)=O)C | C25H20O3
reactant | NaOH | 2N, 20 ml | [OH-].[Na+]
solvent | methanol | 120 ml | CO | CH4O
product | 4-Benzyloxy-3-methylnaphthol | C(C1=CC=CC=C1)OC1=C(C=C(C2=CC=CC=C12)O)C | C18H16O2
